US09023873B2
N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]carbamoyl]-2-methoxy-phenyl]-N-methyl-pyridine-4-carboxamide (Compound No. G14 of Table G)
A solution of N-[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-2-methoxy-3-(methylamino)benzamide (0.600 g, 1.03 mmole), 4-dimethylaminopyridine (0.006 g) and pyridine (0.334 ml, 0.327 g, 4 mmole) in THF (11.4 ml) was treated with isonicotinoyl chloride hydrochloride (0.386 g, 2 mmole). The resulting white suspension was heated under reflux for 0.5 hour. The reaction mixture was filtered and the filtrate evaporated under reduced pressure. The residue was taken up in aqueous saturated sodium bicarbonate solution. The product was extracted with ethyl acetate and the organic phase was washed with brine and dried over sodium sulfate. The crude product was purified by column chromatography over silica gel using ethyl acetate 50%-cyclohexane 50% to yield the title compound corresponding to compound No. G14 of table G.

reactant | N-[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-2-methoxy-3-(methylamino)benzamide | 1.03 mmole, 0.600 g | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Br)NC(C1=C(C(=CC=C1)NC)OC)=O | C18H13Br2F7N2O2
reactant | pyridine | 4 mmole, 0.334 ml, 0.327 g | N1=CC=CC=C1 | C5H5N
reactant | isonicotinoyl chloride hydrochloride | 2 mmole, 0.386 g | Cl.C(C1=CC=NC=C1)(=O)Cl
catalyst | 4-dimethylaminopyridine | 0.006 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 11.4 ml | C1CCOC1 | C4H8O
product | N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]carbamoyl]-2-methoxy-phenyl]-N-methyl-pyridine-4-carboxamide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Br)NC(=O)C=1C(=C(C=CC1)N(C(=O)C1=CC=NC=C1)C)OC | C24H16Br2F7N3O3
